US06906072B1
Example 188 1-[4-Cyano-4-(2-thienyl)-5-methylhexyl]-4-(3-pyridylamino)piperidine
The title compound was synthesized in accordance with Example 75 from 4-cyano-4-(2-thienyl)-5-methylhexyl iodide and 4-(3-pyridylamino)piperidine. The physico-chemical data of the compound was as below.

reactant | 4-cyano-4-(2-thienyl)-5-methylhexyl iodide | C(#N)C(CCCI)(C(C)C)C=1SC=CC1 | C12H16INS
reactant | 4-(3-pyridylamino)piperidine | N1=CC(=CC=C1)NC1CCNCC1 | C10H15N3
product | 1-[4-Cyano-4-(2-thienyl)-5-methylhexyl]-4-(3-pyridylamino)piperidine | C(#N)C(CCCN1CCC(CC1)NC=1C=NC=CC1)(C(C)C)C=1SC=CC1 | C22H30N4S
